US08871756B2
Methyl 1-[(tert-butoxycarbonyl)amino]cyclopropanecarboxylate
To a cooled mixture of methyl 1-aminocyclopropanecarboxylate (1.1 g, 9.6 mmol) and an aqueous solution of potassium bicarbonate (2.88 g, 28.8 mmol dissolved in 10 mL of water) in ethyl acetate (30 mL) was added a solution of di-tert-butyl dicarbonate (4.15 g, 19.2 mmol) in ethyl acetate (10 mL) at 0° C. The reaction mixture was allowed to warm to room temperature and stirred at this temperature overnight. The separated aqueous layer was extracted with ethyl acetate (20 mL). The combined organic layers were dried over sodium sulfate and concentrated in vauco to afford 2.0 g of the product (yield was 97%).

reactant | methyl 1-aminocyclopropanecarboxylate | 9.6 mmol, 1.1 g | NC1(CC1)C(=O)OC | C5H9NO2
reactant | potassium bicarbonate | 28.8 mmol, 10 mL, 2.88 g | C([O-])(O)=O.[K+]
reactant | di-tert-butyl dicarbonate | 19.2 mmol, 4.15 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 1-[(tert-butoxycarbonyl)amino]cyclopropanecarboxylate | 2.0 g, yield was 97% | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)OC | C10H17NO4
